US06005116
(a) 4-Isopropylcinnamic acid ethyl ester
4-Isopropylcinnamic acid (5.0 g), conc. sulfuric acid (0.5 ml) and ethanol (50 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(a) to obtain the title compound (5.5 g, 97%) as a colorless oil.

reactant | 4-Isopropylcinnamic acid | 5.0 g | C(C)(C)C1=CC=C(C=CC(=O)O)C=C1 | C12H14O2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Isopropylcinnamic acid ethyl ester | 5.5 g, 97% | C(C)OC(C=CC1=CC=C(C=C1)C(C)C)=O | C14H18O2
